US05294728
Preparation of Pentaerythritol Tetramercaptopropionate Diacetoacetate.
To a solution of 20.0 g. (0.041 mol) of pentaerythritol tetramercaptopropionate in 20 g. of acetonitrile was added 7.9 g. (0.094 mol. 2.3 equiv.) of diketene. Upon addition of triethylamine catalyst (30 mg) an exotherm of 17° C. was observed. After 30 minutes the reaction mixture was warmed to 70° C. for an additional 30 minutes to ensure complete reaction. Solvent was removed on a rotary evaporator.

reactant | pentaerythritol tetramercaptopropionate | 0.041 mol | SC(C(C(=O)OCC(CO)(CO)CO)(S)S)S | C8H16O5S4
reactant | diketene | 0.094 mol, 2.3 equiv. | C=C1CC(=O)O1 | C4H4O2
catalyst | triethylamine | 30 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | Pentaerythritol Tetramercaptopropionate Diacetoacetate | C(CC(=O)C)(=O)OCC(COC(C(C(S)S)(S)S)=O)(COC(CC(=O)C)=O)CO | C16H24O9S4
